US06232271B1
d) 4-Cyano-5diethoxymethyl-1-(1-methyl-5-methylthio-3-pyrazolyl)-pyrazole
1.0 g (2.8 mmol) of 4-cyano-5-diethoxymethyl-1-(4chloro-1-methyl-5-methylthio-3-pyrazolyl)pyrazole (Example B.1) and 1.0 g (5.8 mmol) of m-chloroperbenzoic acid in 10 ml of dichloromethane are stirred at 0° C. for 3 hours and subsequently at room temperature for 12 hours. The reaction mixture is washed with sodium thiosulfate solution, sodium bicarbonate solution and water and dried (sodium sulfate), and the solvent is distilled off. Silica gel column chromatography (ethyl acetate/ hexane) gives the desired product in the form of colorless flakes.

reactant | 4-cyano-5-diethoxymethyl-1-(4chloro-1-methyl-5-methylthio-3-pyrazolyl)pyrazole | 2.8 mmol, 1.0 g | C(#N)C=1C=NN(C1C(OCC)OCC)C1=NN(C(=C1Cl)SC)C | C14H18ClN5O2S
reactant | m-chloroperbenzoic acid | 5.8 mmol, 1.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-Cyano-5diethoxymethyl-1-(1-methyl-5-methylthio-3-pyrazolyl)-pyrazole | C(#N)C=1C=NN(C1C(OCC)OCC)C1=NN(C(=C1)SC)C | C14H19N5O2S
